US08541575B2
4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyridine
To a solution of 100 mg (0.23 mol) of 4-iodo-1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazole in 16 ml of dioxane and 4 ml of water, 90 mg (0.46 mmol) of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine, 52 mg (0.046 mmol) of palladium tetrakis and 150 mg (0.46 mmol) mg of cesium carbonate were added successively. The mixture was submitted to microwave irradiation at 120° C. for 30 minutes in a sealed vial. The reaction was filtered through a celite pad and the solvent evaporated to dryness. The crude was then partitioned between dichloromethane and water, the organic layer dried over sodium sulphate and the solvent removed in vacuo. After purification by flash-chromatography on a silica gel column (CH2Cl2-CH3COCH3) 78 mg (88%) of the title compound were obtained.

reactant | 4-iodo-1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazole | 0.23 mol, 100 mg | IC=1C(=NN(C1)CC1=CC=C(C=C1)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C17H14IN3O3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.46 mmol, 90 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 16 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
catalyst | palladium tetrakis | 0.046 mmol, 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyridine | COC1=CC=C(CN2N=C(C(=C2)C2=CC=NC=C2)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C22H18N4O3
